US05747499
(4) 5-[N-Methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta-[g]quinazolin-6-yl)amino]pyridine-2-carboxylic acid
A mixture of methyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate (0.185 g), sodium hydroxide (0.06 g), water (2 ml) and methanol (10 ml) was stirred at ambient temperature for 18 hours. The mixture was evaporated. Water (20 ml) was added and the mixture was acidified to pH 5 by the addition of 2N aqueous hydrochloric acid. The precipitate was isolated, washed with water and dried under vacuum. There was thus obtained 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylic acid (0.01 g).

reactant | methyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate | 0.185 g | CN(C1CCC2=C1C(=C1C(N(C(=NC1=C2)C)OC(C(C)(C)C)=O)=O)C)C=2C=CC(=NC2)C(=O)OC | C26H30N4O5
reactant | sodium hydroxide | 0.06 g | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 5-[N-Methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta-[g]quinazolin-6-yl)amino]pyridine-2-carboxylic acid | CN(C1CCC2=C1C=C1C(NC(=NC1=C2)C)=O)C=2C=CC(=NC2)C(=O)O | C19H18N4O3
